US08809336B2
68C. 4-[4-(4-Chlorophenyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-piperidin-1-yl]-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid
4-[4-(4-Chlorophenyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-piperidin-1-yl]-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid ethyl ester (49 mg, 0.09 mmol) was hydrolysed in a mixture of 2M NaOH (1 mL) and 1,4-dioxane (1 mL) at 80° C. overnight. The solution was acidified by dropwise addition of conc. HCl. Solvents were evaporated and the resulting solid was filtered and washed with water, then dried. A white solid (45 mg) was obtained which was used in the next step without further purification.

reactant | 4-[4-(4-Chlorophenyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-piperidin-1-yl]-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid ethyl ester | 0.09 mmol, 49 mg | C(C)OC(=O)C=1C(=C2C(=NC1)NC=C2)N2CCC(CC2)(CN2C(C1=CC=CC=C1C2=O)=O)C2=CC=C(C=C2)Cl | C30H27ClN4O4
reactant | HCl | Cl | ClH
solvent | NaOH | 2M, 1 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 4-[4-(4-Chlorophenyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-piperidin-1-yl]-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | 45 mg | ClC1=CC=C(C=C1)C1(CCN(CC1)C1=C2C(=NC=C1C(=O)O)NC=C2)CN2C(C1=CC=CC=C1C2=O)=O | C28H23ClN4O4
